US07674807B2
2-(3-Methyl-4-nitrophenyl)-thioacetamide (1.00 g), 1-bromo-3,3,4,4,4-pentafluoro-2-butanone (1.15 g) and potassium carbonate (0.79 g) were stirred in DMF (10 ml) at room temperature for 1 hour. The reaction solution was diluted with ethyl acetate and washed with water and saturated aqueous solution of sodium chloride. After drying the organic layer with magnesium sulfate, the solvent was distilled off under the reduced pressure and the obtained residue was purified by silica gel column chromatography to obtain 2-(3-Methyl-4-nitro-phenyl)-thioacetimidic acid 3,3,4,4,4-pentafluoro-2-oxo-butyl ester (1.30 g).

reactant | 2-(3-Methyl-4-nitrophenyl)-thioacetamide | 1.00 g | CC=1C=C(C=CC1[N+](=O)[O-])CC(=S)N | C9H10N2O2S
reactant | 1-bromo-3,3,4,4,4-pentafluoro-2-butanone | 1.15 g | BrCC(C(C(F)(F)F)(F)F)=O | C4H2BrF5O
reactant | potassium carbonate | 0.79 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(3-Methyl-4-nitro-phenyl)-thioacetimidic acid 3,3,4,4,4-pentafluoro-2-oxo-butyl ester | 1.30 g | FC(C(CSC(CC1=CC(=C(C=C1)[N+](=O)[O-])C)=N)=O)(C(F)(F)F)F | C13H11F5N2O3S
